US08809380B2
Step 1. 4-(iodomethyl)tetrahydro-2H-pyran-4-ol
A mixture of trimethylsulfoxonium chloride (3.08 g, 23.73 mmol) and 2 N aq. sodium hydroxide (11.33 mL, 22.65 mmol) in tetrahydrofuran (13 mL) was heated at 50° C. for 1 h. 2.16 g (21.57 mmol) of tetrahydro-4H-pyran-4-one was added to the mixture and the mixture was stirred at 50° C. for 30 min. After cooling to room temperature, 3.56 g (23.73 mmol) of sodium iodide and 2 N hydrochloric acid (10.8 mL, 21.57 mmol) were added to the mixture. After being stirred at room temperature for 19 h, ethyl acetate was added to the mixture. The mixture was extracted with ethyl acetate three times and the extracts were combined. The extracts were dried over sodium sulfate and concentrated in vacuo to afford a beige solid. The residual solid was recrystallized from acetonitrile to afford 3.13 g (55%) of the title compound.

reactant | trimethylsulfoxonium chloride | 23.73 mmol, 3.08 g | [Cl-].C[S+](=O)(C)C
reactant | sodium hydroxide | 22.65 mmol, 2 N, 11.33 mL | [OH-].[Na+]
reactant | tetrahydro-4H-pyran-4-one | 21.57 mmol, 2.16 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium iodide | 23.73 mmol, 3.56 g | [I-].[Na+]
reactant | hydrochloric acid | 21.57 mmol, 2 N, 10.8 mL | Cl | ClH
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(iodomethyl)tetrahydro-2H-pyran-4-ol | 3.13 g, 55% | ICC1(CCOCC1)O | C6H11IO2
